US08609656B2
Preparation of acetic acid 1-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl)-1H-indol-4-yl ester
The title compound can be synthesized from acetic acid 1-(4-aminophenyl)-1H-indol-4-yl ester and 4-chloro-3-(trifluoromethyl)phenyl isocyanate in the same manner as in Step C of Example 1.

reactant | acetic acid 1-(4-aminophenyl)-1H-indol-4-yl ester | NC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)OC(C)=O | C16H14N2O2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | acetic acid 1-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl)-1H-indol-4-yl ester | ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C=CC2=C(C=CC=C12)OC(C)=O)=O)C(F)(F)F | C24H17ClF3N3O3
